US07217723B2
3-[4-(4-Fluorophenyl)-piperazine-1-sulfonyl]5,6-dihydro-4H-benzo[b]thiophene-7-one
From 1-(4-fluorophenyl)-piperazine (91 mg) and 7-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonyl chloride (the compound of Preparation Example 7) (120 mg), the title compound (148 mg) was obtained as a colorless solid, in the same way as Preparation Example 41.

reactant | 1-(4-fluorophenyl)-piperazine | 91 mg | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | 7-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonyl chloride | O=C1CCCC2=C1SC=C2S(=O)(=O)Cl | C8H7ClO3S2
product | 3-[4-(4-Fluorophenyl)-piperazine-1-sulfonyl]5,6-dihydro-4H-benzo[b]thiophene-7-one | 148 mg | FC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C=1C2=C(SC1)C(CCC2)=O | C18H19FN2O3S2
